US07781426B2
n-Butyl lithium (1.6 M in hexanes, 6.86 mL, 11.0 mmol) was added to a stirred solution of 1,4-diazobicyclo[2.2.2]-octane (1.23 g, 11.0 mmol) in dry Et2O (55 mL) at −78° C. under N2. The reaction was warmed to −20° C. and stirred for 1 h. The reaction was cooled to −78° C. and a solution of 3-fluoropyridine (1.07 g, 11.0 mmol) in Et2O (5.5 mL) was added dropwise via cannula. The reaction was warmed to −60° C. and stirred for 1 h after which time a yellow precipitate appeared. DMF (803 mg, 847 μL, 12.1 mmol) was added dropwise and the reaction was gradually warmed to −20° C. over 4 h. Water (20 mL) was added and the mixture was extracted with Et2O (3×40 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 25×160 mm, 0-60% EtOAc in hexanes gradient) to afford 3-fluoropyridine-2-carbaldehyde (152.3 mg, 11%). Rf=0.23 (20% EtOAc/hexanes). LCMS calc.=126.0; found=125.9 (M+1)+. 1H NMR (500 MHz, CDCl3): δ 10.14 (d, J=2.4 Hz, 1H); 8.57 (m, 1H); 7.57-7.53 (m, 2H).

reactant | n-Butyl lithium | 11.0 mmol, 1.6 M, 6.86 mL | C(CCC)[Li]
reactant | 3-fluoropyridine | 11.0 mmol, 1.07 g | FC=1C=NC=CC1 | C5H4FN
reactant | DMF | 12.1 mmol, 847 μL, 803 mg | CN(C)C=O | C3H7NO
reactant | Water | 20 mL | O | H2O
solvent | Et2O | 55 mL | CCOCC | C4H10O
solvent | Et2O | 5.5 mL | CCOCC | C4H10O
product | 3-fluoropyridine-2-carbaldehyde | 152.3 mg, 11% | FC=1C(=NC=CC1)C=O | C6H4FNO
